US08084623B2
A solution of 2-butyl-2-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.435 g, 1.09 mmol) in 1N HCl in MeOH (10.9 mL) was stirred at ambient temperature under nitrogen for 14 hours. The reaction mixture was concentrated in vacuo, then redissolved in DCM and concentrated in vacuo to remove excess HCl. Purification by chromatography (silica, 0-10% MeOH in DCM) gave (2-butyl-pyrrolidin-2-yl)-(3,4-dichloro-phenyl)-methanone (0.249 g, 0.740 mmol, 68%) as a white powder, MS=300 [M+H]+.

reactant | 2-butyl-2-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.09 mmol, 0.435 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C(C1=CC(=C(C=C1)Cl)Cl)=O)CCCC | C20H27Cl2NO3
solvent | HCl | 1N | Cl | ClH
solvent | MeOH | 10.9 mL | CO | CH4O
product | (2-butyl-pyrrolidin-2-yl)-(3,4-dichloro-phenyl)-methanone | 0.740 mmol, 0.249 g, 68% | C(CCC)C1(NCCC1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C15H19Cl2NO
